US08138377B2
A. Synthesis of 3-naphthalen-1-yl-cyclopent-2-enone
To a stirred solution of 1-iodonapthalene (10.00 g, 39.36 mmol) in tetrahydrofuran (300 mL) at −78° C. was added n-butyllithium (2.5 M in hexanes; 17.49 mL, 43.73 mmol, 1.1 eq.) so that the reaction temperature remained ≦−78° C. The reaction mixture was stirred for 15 minutes. To the reaction mixture was added a solution of 3-methoxy-2-cyclopenten-1-one (5.10 g, 45.48 mmol, 1.16 eq.) in tetrahydrofuran (50 mL) so that the reaction temperature remained ≦−78° C. The reaction mixture was warmed to −20° C. over a 2 h period and the reaction mixture was quenched with a solution of 1N HCl and concentrated in vacuo to remove the organics. A solution of 1N HCl was added and the reaction mixture was stirred for a further 0.5 h and extracted with ethyl acetate (3×100 mL). The organic layers were combined, washed with saturated aqueous sodium bicarbonate (100 mL) followed by brine (100 mL), dried over magnesium sulphate and concentrated in vacuo to afford a yellow oil. The crude oil was purified by flash chromatography (SiO2, ethyl acetate:petroleum ether 40-60; 20%:80%) to afford the desired compound as an off-white solid (4.01 g, 49%). 1H NMR (400 MHz, CDCl3) δ ppm 2.68 (2H, dt, J 2, 4.8 Hz, CH2), 3.16 (2H, td, J 2.4, 4.8 Hz, CH2), 6.51 (1H, t, J 1.6 Hz, CH), 7.54-7.60 (4H, m, ArH), 7.93-8.01 (2H, m, ArH), 8.10-8.18 (1H, m, ArH).

reactant | 1-iodonapthalene | 39.36 mmol, 10.00 g | IC1=CC=CC2=CC=CC=C12 | C10H7I
reactant | n-butyllithium | 43.73 mmol, 2.5 M, 17.49 mL, 1.1 eq. | C(CCC)[Li]
reactant | 3-methoxy-2-cyclopenten-1-one | 45.48 mmol, 5.10 g, 1.16 eq. | COC1=CC(CC1)=O | C6H8O2
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-naphthalen-1-yl-cyclopent-2-enone | 4.01 g, 49% | C1(=CC=CC2=CC=CC=C12)C1=CC(CC1)=O | C15H12O
